### PR TITLE
Polish Slang

### PR DESCRIPTION
**Pull request by dsainati1**

### CODE REVIEW

File: TS/Slang.lean [hunk 1]
```diff
@@ -802,36 +832,22 @@ What should `Aexp.eval` do with nondeterminism??
...
-terminating if the implement the `CCPO` typeclass and are labeled as
-a `partial_fixpoint`. Maybe we don't want to get into the second thing here,
-but failing to mention options (which I think were introduced in LF) seems
-a bit surprising.
-:::
-:::dev "Benjamin Pierce (bcpierce00)"
-Agreed.
-:::
-
-
```
Comment (dsainati1) [inline TS/Slang.lean:828]: @bcpierce00 @mwhicks1 does the change below and the extra example above address your concerns in these comments?

File: LF/Tactics.lean [hunk 2]
```diff
@@ -1102,10 +1102,24 @@ so we won't import the whole thing here, but we have
...
 
-:::dev "Daniel Sainati (dsainati1)" NOW
-this part has been changed
-from the original Rocq, let me know what you think
-:::
+::::full
+To apply a tactic in multiple places at the same time, you can list multiple hypotheses
+in a row after the `at`. You can also explicitly use a tactic on the goal (usually
+because you are applying the tactic to both a hypothesis and the goal) by including
+it after the `at` with the `⊢` symbol, written `\goal` or `\vdash`.
```
Comment (mwhicks1) [inline LF/Tactics.lean]: In the `TS/Types.lean` chapter we point out that `\vdash` is called the turnstile. Perhaps we should introduce its name here, and then adjust the text there (which can "recall" that the character is the turnstile)?

File: TS/Slang.lean [hunk 3]
```diff
@@ -140,55 +143,49 @@ implementations and proofs.
...
-  | mult  a1 a2 =>  a1.eval * a2.eval
-```
-
-::::full
-By convention, we pair the definition with one _simplification lemma_ per constructor,
-specifying
-how `eval` behaves on that constructor. Proofs then rewrite by these lemmas rather
-than peeking through the definition of `eval`.  We tag each lemma `@[simp]`, so `simp`
-applies them automatically.
-::::
```
Comment (mwhicks1) [inline TS/Slang.lean:157]: I think it's fine to cut this. My thinking to include it was that someone might start with TS or HL without having gone over LF first, and it wouldn't hurt to recap. But perhaps this idiom is so typical that anyone knowing enough Lean to start with this chapter would already know this?

File: TS/Slang.lean [hunk 4]
```diff
@@ -266,72 +263,96 @@ theorem optimize0plus_sound (a : Aexp) :
...
+
+```lean
+def Nat.even (n : Nat) :=
+  match n with
+  | 0 => true
+  | 1 => false
+  | n' + 2 => even n'
+
+def Nat.odd (n : Nat) := Nat.even (n + 1)
+```
```
Comment (mwhicks1) [inline TS/Slang.lean:304]: Great example!

File: TS/Slang.lean [hunk 5]
```diff
@@ -733,15 +736,42 @@ with division:
...
+                    | _, _ => none
+  | div   a₁ a₂ =>  match a₁.eval, a₂.eval with
+                    | _, some 0 => none
+                    | some n₁, some n₂ => some (n₁ * n₂)
+                    | _, _ => none
+end Aexp
+```
+
+This definition is a lot wordier than the earlier version. There are tools
+to reduce this overhead, namely monads, but we will not discuss those here.
```
Comment (mwhicks1) [inline TS/Slang.lean]: This is Ok but I wonder about throwing out the term monads without saying anything more about it. What about saying more definitively: We will not discuss those in this SFL _volume_ at all, and more can be found in the Lean documentation (i.e., at https://lean-lang.org/functional_programming_in_lean/Monads/) ?

File: TS/Slang.lean [hunk 6]
```diff
@@ -802,36 +832,22 @@ What should `Aexp.eval` do with nondeterminism??
...
-:::
-
-
 ::::full
 At this point you may be wondering: which of these styles should I use
 by default?
 
 Where the thing being defined is not easy to express as a function --
-or is genuinely _not_ a function -- there is no real choice. When both
+or is genuinely _not_ a function -- relational definitions are often simpler. When both
```
Comment (mwhicks1) [inline TS/Slang.lean]: How about
```
When the thing being defined is not easy to express as a function, relational definitions are often simpler.
```
? I make this suggestion because you just showed that mostly things _can_ be expressed as functions by using `Option`.

File: TS/Slang.lean (hunk 1 above)
Comment (mwhicks1) [reply TS/Slang.lean:828]: Yes! That's nice. See suggested tweak below.

**Review by mwhicks1 — APPROVED** [review]
Great work. Some small suggestions.

File: TS/Slang.lean (hunk 3 above)
Comment (dsainati1) [reply TS/Slang.lean:157]: Oh interesting, I admit I had not considered the possibility that someone would come to these volumes without having read LF first. I guess our prefaces for these books don't list it as a prerequisite, but should we assume people have read it or are at least familiar with the material therein?

File: TS/Slang.lean [hunk 7]
```diff
@@ -256,8 +253,8 @@ theorem optimize0plus_sound (a : Aexp) :
     a.optimize0plus.eval = a.eval := by
   induction a with
   | num n => rfl
-  | plus a1 a2 ih1 ih2 =>
-    cases a1 with
+  | plus a₁ a₂ ih1 ih2 =>
```
Comment (KihongHeo) [inline TS/Slang.lean]: Probably, `ih_1`, `ih_2`?

File: TS/Slang.lean [hunk 8]
```diff
@@ -385,12 +406,12 @@ following.
 ```lean
 inductive Aexp.EvalR : Aexp → Nat → Prop where
   | num (n : Nat) : EvalR (.num n) n
-  | plus (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
-      EvalR (.plus a1 a2) (n1 + n2)
-  | minus (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
-      EvalR (.minus a1 a2) (n1 - n2)
-  | mult (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
-      EvalR (.mult a1 a2) (n1 * n2)
+  | plus (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : EvalR a₁ n1) (h2 : EvalR a₂ n2) :
```
Comment (KihongHeo) [inline TS/Slang.lean]: `n_1` `n_2`, etc?

File: TS/Slang.lean [hunk 9]
```diff
@@ -752,15 +784,15 @@ What should `Aexp.eval` return for `.div (.num 1) (.num 0)`??
...
-  | plus (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
-      EvalR (.plus a1 a2) (n1 + n2)
-  | minus (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
-      EvalR (.minus a1 a2) (n1 - n2)
-  | mult (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
-      EvalR (.mult a1 a2) (n1 * n2)
-  | div (a1 a2 : Aexp) (n1 n2 n3 : Nat)             -- NEW
-      (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) (hpos : n2 > 0) (hdiv : n2 * n3 = n1) :
-      EvalR (.div a1 a2) n3
+  | plus (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : EvalR a₁ n1) (h2 : EvalR a₂ n2) :
```
Comment (KihongHeo) [inline TS/Slang.lean]: n_1, n_2, etc?

File: LF/Tactics.lean [hunk 10]
```diff
@@ -1102,10 +1102,24 @@ so we won't import the whole thing here, but we have
...
+it after the `at` with the turnstile symbol `⊢`, written `\|-`, `\goal` or `\vdash`.
+::::
+
+::::terse
+You can apply tactics in multiple places at the same time, including the goal:
+::::
+
+```lean
+example (a b : Nat) (h₁ : a = 1 + 1) (h₂ : b = 1 + 2) :
+  Nat.ble (a, b).1 (a, b).2 := by
```
Comment (ionathanch) [inline LF/Tactics.lean]: Style convention uses `n`, `m` for `Nat`s

Comment (ionathanch) [inline LF/Tactics.lean]:
```suggestion
example (n m : Nat) (h₁ : n = 1 + 1) (h₂ : m = 1 + 2) :
  Nat.ble (n, m).1 (n, m).2 := by
```

File: TS/Slang.lean [hunk 11]
```diff
@@ -266,72 +263,96 @@ theorem optimize0plus_sound (a : Aexp) :
...
       simp only [Aexp.optimize0plus, Aexp.eval_plus] at ih1 ⊢
       rw [ih1, ih2]
-    | mult b1 b2 =>
+    | mult b₁ b₂ =>
       simp only [Aexp.optimize0plus, Aexp.eval_plus] at ih1 ⊢
       rw [ih1, ih2]
-  | minus a1 a2 ih1 ih2 =>
+  | minus a₁ a₂ ih1 ih2 =>
     simp only [Aexp.optimize0plus, Aexp.eval_minus]
     rw [ih1, ih2]
```
Comment (ionathanch) [inline TS/Slang.lean]:
```suggestion
  | minus a₁ a₂ ih₁ ih₂ =>
simp only [Aexp.optimize0plus, Aexp.eval_minus]
rw [ih₁, ih₂]
```

File: TS/Slang.lean [hunk 12]
```diff
@@ -266,72 +263,96 @@ theorem optimize0plus_sound (a : Aexp) :
...
-  | mult a1 a2 ih1 ih2 =>
+  | mult a₁ a₂ ih1 ih2 =>
     simp only [Aexp.optimize0plus, Aexp.eval_mult]
     rw [ih1, ih2]
```
Comment (ionathanch) [inline TS/Slang.lean]:
```suggestion
  | mult a₁ a₂ ih₁ ih₂ =>
simp only [Aexp.optimize0plus, Aexp.eval_mult]
rw [ih₁, ih₂]
```

File: TS/Slang.lean [hunk 13]
```diff
@@ -456,10 +469,10 @@ Notice the structural correspondence between this rule and our version of the in
...
 
 ```
-    | plus (a1 a2 : Aexp) (n1 n2 : Nat) :
-        EvalR a1 n1 →
-        EvalR a2 n2 →
-        EvalR (.plus a1 a2) (n1 + n2)
+    | plus (a₁ a₂ : Aexp) (n1 n2 : Nat) :
+        EvalR a₁ n1 →
+        EvalR a₂ n2 →
+        EvalR (.plus a₁ a₂) (n1 + n2)
```
Comment (ionathanch) [inline TS/Slang.lean]:
```suggestion
    | plus (a₁ a₂ : Aexp) (n₁ n₂ : Nat) :
        EvalR a₁ n₁ →
        EvalR a₂ n₂ →
        EvalR (.plus a₁ a₂) (n₁ + n₂)
```

File: TS/Slang.lean [hunk 14]
```diff
@@ -634,16 +644,16 @@ theorem Aexp.evalR_iff_eval (a : Aexp) (n : Nat) :
   · intro h
     induction h with
     | num n => rfl
-    | plus a1 a2 n1 n2 h1 h2 ih1 ih2 => simp only [Aexp.eval_plus]; rw [ih1, ih2]
-    | minus a1 a2 n1 n2 h1 h2 ih1 ih2 => simp only [Aexp.eval_minus]; rw [ih1, ih2]
-    | mult a1 a2 n1 n2 h1 h2 ih1 ih2 => simp only [Aexp.eval_mult]; rw [ih1, ih2]
+    | plus a₁ a₂ n1 n2 h1 h2 ih1 ih2 => simp only [Aexp.eval_plus]; rw [ih1, ih2]
+    | minus a₁ a₂ n1 n2 h1 h2 ih1 ih2 => simp only [Aexp.eval_minus]; rw [ih1, ih2]
+    | mult a₁ a₂ n1 n2 h1 h2 ih1 ih2 => simp only [Aexp.eval_mult]; rw [ih1, ih2]
```
Comment (ionathanch) [inline TS/Slang.lean]:
```suggestion
    | plus a₁ a₂ n₁ n₂ h₁ h₂ ih₁ ih₂ => simp only [Aexp.eval_plus]; rw [ih₁, ih₂]
    | minus a₁ a₂ n₁ n₂ h₁ h₂ ih₁ ih₂ => simp only [Aexp.eval_minus]; rw [ih₁, ih₂]
    | mult a₁ a₂ n₁ n₂ h₁ h₂ ih₁ ih₂ => simp only [Aexp.eval_mult]; rw [ih₁, ih₂]
```

File: TS/Slang.lean [hunk 15]
```diff
@@ -634,16 +644,16 @@ theorem Aexp.evalR_iff_eval (a : Aexp) (n : Nat) :
...
   · intro h
     subst h
     induction a with
     | num n => exact .num n
-    | plus a1 a2 ih1 ih2 => exact .plus a1 a2 _ _ ih1 ih2
-    | minus a1 a2 ih1 ih2 => exact .minus a1 a2 _ _ ih1 ih2
-    | mult a1 a2 ih1 ih2 => exact .mult a1 a2 _ _ ih1 ih2
+    | plus a₁ a₂ ih1 ih2 => exact .plus a₁ a₂ _ _ ih1 ih2
+    | minus a₁ a₂ ih1 ih2 => exact .minus a₁ a₂ _ _ ih1 ih2
+    | mult a₁ a₂ ih1 ih2 => exact .mult a₁ a₂ _ _ ih1 ih2
```
Comment (ionathanch) [inline TS/Slang.lean]:
```suggestion
    | plus a₁ a₂ ih₁ ih₂ => exact .plus _ _ _ _ ih₁ ih₂
    | minus a₁ a₂ ih₁ ih₂ => exact .minus _ _ _ _ ih₁ ih₂
    | mult a₁ a₂ ih₁ ih₂ => exact .mult _ _ _ _ ih₁ ih₂
```

File: TS/Slang.lean [hunk 16]
```diff
@@ -385,12 +406,12 @@ following.
...
-  | minus (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
-      EvalR (.minus a1 a2) (n1 - n2)
-  | mult (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
-      EvalR (.mult a1 a2) (n1 * n2)
+  | plus (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : EvalR a₁ n1) (h2 : EvalR a₂ n2) :
+      EvalR (.plus a₁ a₂) (n1 + n2)
+  | minus (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : EvalR a₁ n1) (h2 : EvalR a₂ n2) :
+      EvalR (.minus a₁ a₂) (n1 - n2)
+  | mult (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : EvalR a₁ n1) (h2 : EvalR a₂ n2) :
+      EvalR (.mult a₁ a₂) (n1 * n2)
```
Comment (ionathanch) [inline TS/Slang.lean]: I feel like we could make all of the forced arguments (a₁, a₂, n₁, n₂) implicit, which will get rid of a bunch of omitted arguments `_` in later cases and proofs

File: TS/Slang.lean [hunk 17]
```diff
@@ -672,32 +682,25 @@ it is equivalent to {name}`Bexp.eval`.
...
   -- SOLUTION
   | bool (b : Bool) : EvalR (.bool b) b
-  | eq (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : a1 ⇓ n1) (h2 : a2 ⇓ n2) : EvalR (.eq a1 a2) (n1 == n2)
-  | neq (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : a1 ⇓ n1) (h2 : a2 ⇓ n2) : EvalR (.neq a1 a2) (n1 != n2)
-  | le (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : a1 ⇓ n1) (h2 : a2 ⇓ n2) : EvalR (.le a1 a2) (n1 ≤ n2)
-  | gt (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : a1 ⇓ n1) (h2 : a2 ⇓ n2) : EvalR (.gt a1 a2) (n1 > n2)
+  | eq (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : a₁ ⇓ n1) (h2 : a₂ ⇓ n2) : EvalR (.eq a₁ a₂) (n1 == n2)
+  | neq (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : a₁ ⇓ n1) (h2 : a₂ ⇓ n2) : EvalR (.neq a₁ a₂) (n1 != n2)
+  | le (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : a₁ ⇓ n1) (h2 : a₂ ⇓ n2) : EvalR (.le a₁ a₂) (n1 ≤ n2)
+  | gt (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : a₁ ⇓ n1) (h2 : a₂ ⇓ n2) : EvalR (.gt a₁ a₂) (n1 > n2)
```
Comment (ionathanch) [inline TS/Slang.lean]:
```suggestion
  | eq (a₁ a₂ : Aexp) (n₁ n₂ : Nat) (h₁ : a₁ ⇓ n₁) (h₂ : a₂ ⇓ n₂) : EvalR (.eq a₁ a₂) (n₁ == n₂)
  | neq (a₁ a₂ : Aexp) (n₁ n₂ : Nat) (h₁ : a₁ ⇓ n₁) (h₂ : a₂ ⇓ n₂) : EvalR (.neq a₁ a₂) (n₁ != n₂)
  | le (a₁ a₂ : Aexp) (n₁ n₂ : Nat) (h₁ : a₁ ⇓ n₁) (h₂ : a₂ ⇓ n₂) : EvalR (.le a₁ a₂) (n₁ ≤ n₂)
  | gt (a₁ a₂ : Aexp) (n₁ n₂ : Nat) (h₁ : a₁ ⇓ n₁) (h₂ : a₂ ⇓ n₂) : EvalR (.gt a₁ a₂) (n₁ > n₂)
```

File: TS/Slang.lean [hunk 18]
```diff
@@ -672,32 +682,25 @@ it is equivalent to {name}`Bexp.eval`.
...
   | not (b : Bexp) (bv : Bool) (h : EvalR b bv) : EvalR (.not b) (!bv)
-  | and (b1 b2 : Bexp) (tv1 tv2 : Bool) (h1 : EvalR b1 tv1) (h2 : EvalR b2 tv2) :
-      EvalR (.and b1 b2) (tv1 && tv2)
+  | and (b₁ b₂ : Bexp) (tv1 tv2 : Bool) (h1 : EvalR b₁ tv1) (h2 : EvalR b₂ tv2) :
+      EvalR (.and b₁ b₂) (tv1 && tv2)
```
Comment (ionathanch) [inline TS/Slang.lean]: idk which would make more sense, but this should be consistent in using either `bv` xor `tv` for boolean values (toolean values?)

File: TS/Slang.lean [hunk 19]
```diff
@@ -802,36 +834,22 @@ What should `Aexp.eval` do with nondeterminism??
...
-  | minus (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
-      EvalR (.minus a1 a2) (n1 - n2)
-  | mult (a1 a2 : Aexp) (n1 n2 : Nat) (h1 : EvalR a1 n1) (h2 : EvalR a2 n2) :
-      EvalR (.mult a1 a2) (n1 * n2)
+  | plus (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : EvalR a₁ n1) (h2 : EvalR a₂ n2) :
+      EvalR (.plus a₁ a₂) (n1 + n2)
+  | minus (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : EvalR a₁ n1) (h2 : EvalR a₂ n2) :
+      EvalR (.minus a₁ a₂) (n1 - n2)
+  | mult (a₁ a₂ : Aexp) (n1 n2 : Nat) (h1 : EvalR a₁ n1) (h2 : EvalR a₂ n2) :
+      EvalR (.mult a₁ a₂) (n1 * n2)
```
Comment (ionathanch) [inline TS/Slang.lean]:
```suggestion
  | plus (a₁ a₂ : Aexp) (n₁ n₂ : Nat) (h₁ : EvalR a₁ n₁) (h₂ : EvalR a₂ n₂) :
      EvalR (.plus a₁ a₂) (n₁ + n₂)
  | minus (a₁ a₂ : Aexp) (n₁ n₂ : Nat) (h₁ : EvalR a₁ n₁) (h₂ : EvalR a₂ n₂) :
      EvalR (.minus a₁ a₂) (n₁ - n₂)
  | mult (a₁ a₂ : Aexp) (n₁ n₂ : Nat) (h₁ : EvalR a₁ n₁) (h₂ : EvalR a₂ n₂) :
      EvalR (.mult a₁ a₂) (n₁ * n₂)
```

File: TS/Slang.lean
Comment (ionathanch) [inline TS/Slang.lean]: `e₁`, `e₂`, `n₁`, `n₂`, `n₁ + n₂`, `n₁ - n₂`, `n₁ * n₂`

Comment (ionathanch) [inline TS/Slang.lean]:
```suggestion
| plus  (num 0) e₂ => optimize0plus e₂
| plus  e₁      e₂ => plus  (optimize0plus e₁) (optimize0plus e₂)
| minus e₁      e₂ => minus (optimize0plus e₁) (optimize0plus e₂)
| mult  e₁      e₂ => mult  (optimize0plus e₁) (optimize0plus e₂)
```

Comment (ionathanch) [reply TS/Slang.lean]: Oops that suggested change doesn't seem to delete the old lines. Don't incorporate that directly from Github

Comment (ionathanch) [inline TS/Slang.lean]: `e₁`, `e₂`, `n₁`, `n₂`, `n₁ + n₂`

File: TS/Slang.lean [hunk 20]
```diff
@@ -558,60 +571,57 @@ alternative, assuming there are no namespace issues..
...
-                      not e ⇓b negb b
+                      not e ⇓ !b
 
-                        e1 ⇓b b1
-                        e2 ⇓b b2
+                        e1 ⇓ b₁
+                        e2 ⇓ b₂
                   -----------------------        (and)
-                  and e1 e2 ⇓b andb b1 b2
+                  and e1 e2 ⇓ b₁ && b₂
```
Comment (ionathanch) [inline TS/Slang.lean]: why are these aligned so weird

**Comment by berberman** [comment]
I think the changes to Tactics here will have conflict with #216. The text has changed and I've already taken care of the style. Maybe we should revert those changes done in this branch?

File: TS/Slang.lean (hunk 20 above)
Comment (dsainati1) [reply TS/Slang.lean]: I realigned them to all the downarrows are vertically aligned. Let me know if this looks better.

Comment (ionathanch) [reply TS/Slang.lean]: yay

File: TS/Slang.lean [hunk 21]
```diff
@@ -558,60 +571,57 @@ alternative, assuming there are no namespace issues..
...
-                      ---------------            (not)
-                      not e ⇓b negb b
+                         b ⇓ bv
+                     -----------               (not)
+                     not b ⇓ !bv
 
-                        e1 ⇓b b1
-                        e2 ⇓b b2
-                  -----------------------        (and)
-                  and e1 e2 ⇓b andb b1 b2
```
Comment (xhalo32) [inline TS/Slang.lean:614]: I'm not sure whether it's a good idea to change `⇓b` to `⇓` because now the inference rules are harder to read.

Comment (mwhicks1) [reply TS/Slang.lean:614]: I think it's Ok. The `b` in non-subscript position always looked very ugly to me. I think the normal Lean code is easier to read.
